US06723726B1
(1-Benzyl-1H-indazol-5-yl)-(6-pyrrolidin-1-yl-pyrido[3,4-d]pyrimidin-4-yl)-amine
Pyrrolidine (2 ml) was reacted with (1-Benzyl-1H-indazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine (0.4 g) in a reacti-vial at 100° C. (Procedure C). After 18 hours, the cooled mixture was poured onto water and the precipitate washed with hot ether and crystallised from acetone to give the title compound; δH [2H6]DMSO 10.53(1H,s), 9.75(1H,s), 8.79(1H,s), 8.30(1H,s), 8.23(1H,s), 8.14(1H,s), 7.70(2H,m), 7.28(5H,m), 7.14(1H,s), 5.68(2H,s) 3.50(4H,m), 2.02(4H,m); m/z (M+) 422.

reactant | Pyrrolidine | 2 ml | N1CCCC1 | C4H9N
reactant | (1-Benzyl-1H-indazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine | 0.4 g | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)Cl | C21H15ClN6
product | (1-Benzyl-1H-indazol-5-yl)-(6-pyrrolidin-1-yl-pyrido[3,4-d]pyrimidin-4-yl)-amine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)N2CCCC2 | C25H23N7
